US07741327B2
To a stirred solution of (S)-3-cyclohexyl-2-[4-(6-methyl-pyridin-3-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (490 mg, 1.36 mmol) in tetrahydrofuran-water (3:1, 10 mL) was added lithium hydroxide (172 mg, 4.1 mmol). The reaction mixture was stirred at 23° C. for 2 h. After this time, the mixture was concentrated and the reaction mixture was diluted with water. The reaction mixture was acidified with 2N hydrochloric acid, during which time precipitation occurred. The precipitate was removed by filtration, washed with cold water and dried in vacuo to obtain (S)-3-cyclohexyl-2-[4-(6-methyl-pyridin-3-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid (316 mg, 67%) as a brown solid.

reactant | (S)-3-cyclohexyl-2-[4-(6-methyl-pyridin-3-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 1.36 mmol, 490 mg | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC=1C=NC(=CC1)C)=O)=O | C20H26N2O4
reactant | lithium hydroxide | 4.1 mmol, 172 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | (S)-3-cyclohexyl-2-[4-(6-methyl-pyridin-3-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid | 316 mg, 67% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC=1C=NC(=CC1)C)=O | C19H24N2O4
